US06221865B1
4-N-tert-butoxycarbonylpiperazinylmethyl-2-phenylbenzoic acid
A solution of 4-chloromethyl-2-phenylbenzoic acid methyl ester (0.521 g, 2.00 mmol), prepared as in Example 286A, piperazine (1.39 g, 16.0 mmol), K2CO3 (0.663 g, 4.80 mmol), KI (0.332 g, 2.00 mmol), and Bu4NBr (0.032 g, 0.10 mmol) in DMF (7 mL) was stirred for 2 hours at ambient temperature and then concentrated under reduced pressure. The residue was treated with saturated LiOH-methanol (10 mL) and then heated at reflux for 5 hours. The mixture was concentrated and the residue was dissolved in H2O. This solution was extracted with ethyl acetate (5×), and the aqueous phase was then acidified by the addition of 3 M HCl and lyopholized. The resulting white foam was dissolved in a 1:1 mixture of H2O and 0.979 M NaOH (86 mL), and the solution was treated with di-tert-butyldicarbonate (6.68 g,30.0 mmol). The reaction mixture was stirred at ambient temperature for 15 hours and then concentrated to remove THF. The mixture was treated with H2O and saturated aqueous NaHCO3 and then extracted with a ether (4×). The aqueous phase was acidified to pH 3 by the addition of 3 M HCl and then extracted with 4:1 CHCl3-methanol (10×). The combined organic extracts were dried twice with saturated aqueous Na2SO4 and concentrated to provide the desired compound (0.544 g, 69%) as an amber wax.

reactant | 4-chloromethyl-2-phenylbenzoic acid methyl ester | 2.00 mmol, 0.521 g | COC(C1=C(C=C(C=C1)CCl)C1=CC=CC=C1)=O | C15H13ClO2
reactant | piperazine | 16.0 mmol, 1.39 g | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 4.80 mmol, 0.663 g | C(=O)([O-])[O-].[K+].[K+]
reactant | di-tert-butyldicarbonate | 30.0 mmol, 6.68 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | Bu4NBr | 0.10 mmol, 0.032 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 4-N-tert-butoxycarbonylpiperazinylmethyl-2-phenylbenzoic acid | 0.544 g, 69% | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1C(=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C23H28N2O4
